US05028615
A mixture of (0.014 mol) 4-(4-(2-quinolinylmethyloxy)-styryl)phenol, (0.14 mol) 5-(3-chloropropyl)tetrazole, 2 g (0.036 mol) KOH in 5 ml water, and 50 ml ethanol is heated over a steam bath for a period of 3 hours. The reaction mixture is concentrated to dryness and slurried into water and extracted with methylene chloride. The methylene chloride extract is washed with water, dried over MgSO4 and concentrated under reduced pressure to obtain solid which is passed through a silica gel column using hexane/ethyl acetate as eluent. Evaporation of eluent gives 5-(3-(4-(4-(2-quinolinylmethyloxy)styryl)phenoxy)propyl)tetrazole.

reactant | 4-(4-(2-quinolinylmethyloxy)-styryl)phenol | 0.014 mol | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=CC2=CC=C(C=C2)O)C=C1 | C24H19NO2
reactant | 5-(3-chloropropyl)tetrazole | ClCCCC1=NN=NN1 | C4H7ClN4
reactant | KOH | 0.036 mol, 2 g | [OH-].[K+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5-(3-(4-(4-(2-quinolinylmethyloxy)styryl)phenoxy)propyl)tetrazole | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=CC2=CC=C(OCCCC3=NN=NN3)C=C2)C=C1 | C28H25N5O2
